US04270002
Into a 200 ml four-necked flask, there were charged benzene (100 ml), 1-phenylcyclopentylamine (8.1 g) and triethylamine (6.1 g), and trichloroacetyl chloride (9.1 g) was dropwise added thereto while stirring at room temperature. Stirring was continued for 3 hours. After completion of the reaction, the reaction mixture was washed with water to remove triethylamine hydrochloride. The benzene layer was dried over anhydrous sodium sulfate, and the solvent was distilled off under reduced pressure. The obtained residue was recrystallized from ethanol to give 12.4 g g of N-(1-phenylcyclopentyl)trichloroacetamide. M.P., 114°-115.5° C.

reactant | benzene | 100 ml | C1=CC=CC=C1 | C6H6
reactant | 1-phenylcyclopentylamine | 8.1 g | C1(=CC=CC=C1)C1(CCCC1)N | C11H15N
reactant | trichloroacetyl chloride | 9.1 g | ClC(C(=O)Cl)(Cl)Cl | C2Cl4O
solvent | triethylamine | 6.1 g | C(C)N(CC)CC | C6H15N
product | N-(1-phenylcyclopentyl)trichloroacetamide | C1(=CC=CC=C1)C1(CCCC1)NC(C(Cl)(Cl)Cl)=O | C13H14Cl3NO
